US05624935
1-Methylindol-2-ylmethanol
A solution of 5.05 g of methyl 1-methylindole-2-carboxylate (prepared as described in Preparation 22) in 20 ml of anhydrous tetrahydrofuran was added dropwise to a mixture of 1.85 g of lithium borohydride and 80 ml of anhydrous tetrahydrofuran, and the resulting mixture was heated under reflux for 4 hours. At the end of this time, the reaction mixture was poured into water, after which it was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, to give 4.30 g of the title compound, melting at 92.8°-95.20C.

reactant | methyl 1-methylindole-2-carboxylate | 5.05 g | CN1C(=CC2=CC=CC=C12)C(=O)OC | C11H11NO2
reactant | lithium borohydride | 1.85 g | [BH4-].[Li+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 1-Methylindol-2-ylmethanol | 4.30 g | CN1C(=CC2=CC=CC=C12)CO | C10H11NO
